US08871753B2
Step D: tert-Butyl (3-bromo-5-vinylphenyl)carbamate
A solution of triphenylmethylphosphonium bromide (28.4 g, 79.5 mmol) in tetrahydrofuran (152 mL) at 0° C. was treated with 2.5 M n-butyllithium in hexanes (31.8 mL, 79.5 mmol) dropwise and stirred at 0° C. for 15 min and at 20° C. for 1 h. The reaction mixture was cooled to 0° C., treated with a solution of tert-butyl (3-bromo-5-formylphenyl)carbamate (10.9 g, 36.2 mmol) in tetrahydrofuran (55 mL), and stirred at 20° C. for 1 h. The reaction mixture was cooled to 0° C., quenched with water (50 mL), concentrated to remove most of the tetrahydrofuran, poured into water (150 mL), and extracted with ethyl acetate (200 mL). The aqueous layer was separated and extracted with additional ethyl acetate (100 mL). The combined organic extracts were washed with brine (100 mL), dried over anhydrous sodium sulfate, filtered, and evaporated to give the desired product as a crude tan oil. This material was purified by flash column chromatography to give the desired product (9.9 g, 92%) as a white solid. LCMS for C9H9BrNO2 ([M-(t-Bu)+H]+H)+: m/z=241.9, 243.8.

reactant | triphenylmethylphosphonium bromide | 79.5 mmol, 28.4 g | [Br-].C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)[PH3+]
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | tert-butyl (3-bromo-5-formylphenyl)carbamate | 36.2 mmol, 10.9 g | BrC=1C=C(C=C(C1)C=O)NC(OC(C)(C)C)=O | C12H14BrNO3
solvent | tetrahydrofuran | 152 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 55 mL | O1CCCC1 | C4H8O
product | tert-Butyl (3-bromo-5-vinylphenyl)carbamate | BrC=1C=C(C=C(C1)C=C)NC(OC(C)(C)C)=O | C13H16BrNO2
